US06989401B2
(1) Nα-(tert-butoxycarbonyl)-(O-tert-butyl)-L-tyrosine N-phenylamide
Using N-(tert-butoxycarbonyl)-(O-tert-butyl)-L-tyrosine and aniline, and in the same manner as in the method described in Example 1 (3), synthesis was performed.

reactant | N-(tert-butoxycarbonyl)-(O-tert-butyl)-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C18H27NO5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | Nα-(tert-butoxycarbonyl)-(O-tert-butyl)-L-tyrosine N-phenylamide | C1(=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OC(C)(C)C)=O | C24H32N2O4
